US08669229B2
1-Chloroethyl chloroformate (0.12 ml, 1.2 mmol) was added dropwise to a dichloromethane (10 ml) solution of 7-chloro-1-[2-methyl-4-(2-methylbenzamido)benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl methylaminoacetate (0.60 g, 1.2 mmol), and the mixture was cooled with ice. Then N-methylmorpholine (0.15 ml, 1.4 mmol) was gradually added dropwise thereto. After the resultant mixture was stirred at room temperature for 1 hour, the reaction mixture was diluted with ethyl acetate, washed with water and an aqueous saturated sodium chloride solution, dried over sodium sulfate. After filtration and concentration, the residue was purified by silica gel chromatography (n-hexane:ethyl acetate) to obtain 0.67 g (93%) of 7-chloro-1-[2-methyl-4-(2-methylbenzamido)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl [(1-chloroethoxycarbonyl)methylamino]acetate as amorphous.

reactant | 1-Chloroethyl chloroformate | 1.2 mmol, 0.12 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 7-chloro-1-[2-methyl-4-(2-methylbenzamido)benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl methylaminoacetate | 1.2 mmol, 0.60 g | CNCC(=O)OC1C2=C(N(CCC1)C(C1=C(C=C(C=C1)NC(C1=C(C=CC=C1)C)=O)C)=O)C=CC(=C2)Cl | C29H30ClN3O4
reactant | N-methylmorpholine | 1.4 mmol, 0.15 ml | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-chloro-1-[2-methyl-4-(2-methylbenzamido)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl [(1-chloroethoxycarbonyl)methylamino]acetate | 0.67 g, 93% | ClC(C)OC(=O)CNCC(=O)OC1C2=C(N(CCC1)C(C1=C(C=C(C=C1)NC(C1=C(C=CC=C1)C)=O)C)=O)C=CC(=C2)Cl | C32H33Cl2N3O6
